US09422287B2
a) Dimethyl 2,5-bis-(9′-phenyl-9′H-[3,3′]bicarbazolyl-9-yl)terephthalate
The compound is synthesised by the same procedure as for the corresponding step of Example 5 by reaction of 13.6 g (43 mmol) of diethyl dibromoterephthalate and 39 g (95.9 mmol) of 9-phenyl-3,3′-bicarbazole. The pure product is obtained by recrystallisation. The yield is 31 g (31 mmol), corresponding to 80% of theory.

reactant | diethyl dibromoterephthalate | 43 mmol, 13.6 g | BrC=1C(=C(C(=O)OCC)C=CC1C(=O)OCC)Br | C12H12Br2O4
reactant | 9-phenyl-3,3′-bicarbazole | 95.9 mmol, 39 g | C1(=CC=CC=C1)N1C2=CC=CC=C2C=2CC(C=CC12)=C1C=CC2=NC3=CC=CC=C3C2=C1 | C30H20N2
product | Dimethyl 2,5-bis-(9′-phenyl-9′H-[3,3′]bicarbazolyl-9-yl)terephthalate | C1(=CC=CC=C1)N1C2=CC=CC=C2C=2C=C(C=CC12)C=1C=CC=2N(C3=CC=CC=C3C2C1)C1=C(C(=O)OC)C=C(C(=C1)C(=O)OC)N1C2=CC=CC=C2C=2C=C(C=CC12)C=1C=CC=2N(C3=CC=CC=C3C2C1)C1=CC=CC=C1 | C70H46N4O4
